US05849764
Step 4.2B {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester
2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethylamine hydrochloride salt (1 g) was suspended in dry methylene chloride (25 mL) and dry triethylamine (0.806 mL) was added and stirred for 5 minutes at room temperature. [2-(tert-butoxycarbonyloxyimino)phenylacetronitrile] (890 mg) was added in small portions over 5 minutes to the tryptamine and the reaction mixture left to stir overnight at room temperature. The reaction was partitioned between methylene chloride and 5% citric acid. The methylene chloride layer was separated and washed with brine and dried over anhydrous sodium sulfate powder. The extract was filtered and evaporated to dryness. The product was isolated by column chromatography using silica gel and an eluant of ethyl acetate and hexanes (35:65 v/v). The yield of the title compound was 1 g.

reactant | 2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethylamine hydrochloride salt | 1 g | Cl.CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCN)[N+](=O)[O-]
reactant | triethylamine | 0.806 mL | C(C)N(CC)CC | C6H15N
reactant | tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC(=CC(=C1)C)C)=O | C23H27N3O4
